US09226916B2
h) [(3S,4R)-1-Benzyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-amine
To a suspension of [(3S,4R)-1-benzyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-carbamic acid methyl ester (49.22 g, 142.7 mmol) in THF (520 mL) borane-tetrahydrofurane complex solution (1 M in tetrahydrofurane, 571 mL, 571 mmol) was added slowly over a period of 25 min. The reaction mixture was stirred for 19 h at 60° C. and then quenched with aqueous HCl (1N, 570 mL, dropwise over 60 min). The mixture was stirred for further 21 h at 60° C. After cooling to ambient temperature, tetrahydrofurane was distilled away and the residue was separated between tert-butylmethylether (1500 mL) and aqueous HCl (1N, 1000 mL). The aqueous layer was set to pH=10 with aqueous sodium carbonate (saturated, 2000 mL) and then extracted with tert-butylmethylether (twice 1500 mL). The organic layers were washed with brine (750 mL), combined and was dired over sodium sulfate. Concentration and filtration over silicagel (ethyl acetate:methanol, triethylamine=90:5:5) afforded the title compound (34.38, 80%) as a light yellow liquid. MS m/e: 301.4/303.4 [M+H]+.

reactant | [(3S,4R)-1-benzyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-carbamic acid methyl ester | 142.7 mmol, 49.22 g | COC(N[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)CC1=CC=CC=C1)=O | C19H21ClN2O2
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | [(3S,4R)-1-Benzyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-amine | 80% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC=C(C=C1)Cl)NC | C18H21ClN2
